US08835428B2
Step 5: 3-(4-(benzyloxy)phenyl)isoxazole-5-carboxylic acid
To Ethyl 3-(4-(benzyloxy)phenyl)isoxazole-5-carboxylate (900 mg) in THF (18 ml), 1M aqueous solution of NaOH (13.9 ml) was added and the reaction mixture was stirred for 20 minutes. It was acidified with 1 Molar hydrochloric acid and extracted with ethyl acetate. Organic layer was collected and dried over Na2SO4 and concentrated to obtain pale yellow solid, which was crystallized using EtOAc—petroleum ether to obtain the title compound as off white solid. Yield: 765 mg (93%); MS (ES+): m/z 296 (M+1); 1H NMR (DMSO-d6; 300 MHz): δ 7.91 (d, 2H), 7.73 (s, 1H), 7:34-7.48 (m, 5H), 7.17 (d, 2H), 5.19 (s, 2H).

reactant | Ethyl 3-(4-(benzyloxy)phenyl)isoxazole-5-carboxylate | 900 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NOC(=C1)C(=O)OCC | C19H17NO4
reactant | NaOH | 13.9 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 Molar | Cl | ClH
solvent | THF | 18 ml | C1CCOC1 | C4H8O
product | 3-(4-(benzyloxy)phenyl)isoxazole-5-carboxylic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NOC(=C1)C(=O)O | C17H13NO4
